US06235731B1
2) Synthesis of cis-1-(3-phenylpropan-1-yl)-2,6-dimethyl-piperazine
To 11.76 g (35.4 mmol.) of cis-1-tert-butoxycarbonyl-3,5-dimethyl-4-(3-phenylpropan-1-yl)piperazine was added, at room temperature, 10 ml (120 mmol.) of 12N hydrochloric acid. The mixture was stirred for one hour. To the reaction system was added water. Impurities were removed by extraction with ethyl acetate. The solution was made alkaline by the addition of an aqueous solution of sodium hydroxide, which was subjected to extraction with ethyl acetate. The organic layer was washed with a saturated aqueous saline solution, which was dried over magnesium sulfate. The solvent was distilled off under reduced pressure to give the object compound as a yellow oily product. This compound was used for the subsequent reaction without purification. The yield was 5.51 g (67%)

reactant | cis-1-tert-butoxycarbonyl-3,5-dimethyl-4-(3-phenylpropan-1-yl)piperazine | 35.4 mmol, 11.76 g | C(C)(C)(C)OC(=O)N1C[C@H](N([C@H](C1)C)CCCC1=CC=CC=C1)C | C20H32N2O2
reactant | hydrochloric acid | 120 mmol, 12N, 10 ml | Cl | ClH
solvent | water | O | H2O
product | cis-1-(3-phenylpropan-1-yl)-2,6-dimethyl-piperazine | C1(=CC=CC=C1)CCCN1[C@H](CNC[C@H]1C)C | C15H24N2
